Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Unsteady gait, diplopia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo RHM with h/o BPPV who presents with
dizziness, unsteady gait and diplopia. 
The symptoms started abruptly on ___ while on a ferry to
___. The waters were very choppy and everyone was
seasick. The patient vomited 6x. After landing, he was tired and
weak all over. He was having trouble walking due to unsteadiness
(wobbling to either side like a drunk, would nearly fall if he
moved too quickly to either side). He was unable to walk down to
dinner so had food delivered. 
The following morning, he was still unsteady, and had to use a 
cane. He was able to go to the beach by walking slowly and using 
the cane to prevent stumbling. He felt worse when he moved his 
head too quickly, and he was
completely asymptomatic when lying still. 
While sitting at the beach, he suddenly noticed that people in
the distance at the shoreline were double. The double image was
diagonally right and above the real image. The double image 
would
disappear if he closed either eye. This diplopia persisted all
weekend constantly and he presented to the ophthomalogist 
___,
who confirmed the diplopia on his exam but did not see an 
obvious
etiology. The patient also reports that when looking at the
___ chart, the double image was now below and to the left
diagonally.  Today, he woke up feeling better, and has had no 
double vision
all day, and much better ability to ambulate. 
He saw his PCP, who sent him to PCP for concern for a stroke.

Of note, the patient has presented previously with similar
episodes of dizziness with unsteady gait. He had a negative MRI
for this several years ago and was diagnosed with BPPV and
vestibular neuropathy. Last ___, he again had a similar
exacerbation and had a negative CTA of the head and neck. 
There are important differences between those prior episodes and
this current one, including new onset of diplopia, and more
persistant and severe difficulty walking without any actual
vertigo. 

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, dysarthria, dysphagia, vertigo, or hearing difficulty. 
Denies difficulties producing or comprehending speech.  Denies
focal weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention.  

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain. 
 
Past Medical History:
BPPV/Vestibular neuropathy
 
Social History:
___
Family History:
Father had cerebral hemorrhage at age ___, brother had cerebral
aneurysm and prostate CA. No history of blood clots, seizures or
migraine. 
 
Physical Exam:
Physical Exam:
Vitals: T: 99 P: 63 R: 16  BP: 131/73 SaO2: 100/RA

Orthostatics: lying HR 63, BP 153/76 --> standing HR 55 BP
194/105

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally
Skin: no rashes or lesions noted.

Neurologic:
-Mental Status: Alert, oriented x 3.  Able to relate history
without difficulty.  Attentive, able to name ___ backward 
without
difficulty.  Language is fluent with intact repetition and
comprehension.  Normal prosody.  There were no paraphasic 
errors.
Pt. was able to name both high and low frequency objects.  Able
to read without difficulty.  Speech was not dysarthric. Able to
follow both midline and appendicular commands. Pt. was able to
register 3 objects and recall ___ at 5 minutes. 
There was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 2mm and brisk.  VFF to confrontation. 
III, IV, VI: EOMI. Few beats of horizontal nystagmus on R gaze
that fatigues, very small amplitude.  Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing decreased to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
L  5    ___   ___ 5   5    5  5     5     5   
R  5-   ___   ___ 5   5    5  5     5     5   

-Sensory: No deficits to light touch, pinprick, temperature
throughout. Decreased vibration (feels at ankle but not great 
toe
on R, feels few seconds at L great toe). Intact joint position
sense at bilateral great toes. 

-DTRs:
  Bi Tri ___ Pat Ach
L  1  1    1    1   0
R  1  1    1    1   0
Plantar response was downgoing bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally. No overshoot or rebound.

-Gait: good initiation, normal base and stride though slow and
hesitant. Able to turn well in few steps. Unable to tandem walk,
becomes very unsteady and falls toward either side. Sways but
does not step out of Romberg. 

-___: subjective sensation of severe dizziness and
movement in the surroundings (though not frank room spinning) 
was
brought about by quickly sitting patient up from supine with 
head
turned to the RIGHT. No nystagmus elicited. 
.
Discharge examination:
Nystagmus on head thrust to the left
No other abnormal findings on examination
___ was not repeated
 
Pertinent Results:
Admission labs:
___ 02:55PM BLOOD WBC-4.1 RBC-4.68 Hgb-14.3 Hct-42.1 MCV-90 
MCH-30.6 MCHC-34.1 RDW-14.7 Plt ___
___ 02:55PM BLOOD Neuts-65.0 ___ Monos-6.0 Eos-1.3 
Baso-0.4
___ 02:55PM BLOOD Glucose-139* UreaN-27* Creat-0.8 Na-139 
K-4.2 Cl-105 HCO3-25 AnGap-13
.
Risk factors:
___ 06:10AM BLOOD Cholest-203*
___ 06:10AM BLOOD Triglyc-83 HDL-65 CHOL/HD-3.1 LDLcalc-121
___ 06:10AM BLOOD %HbA1c-5.7 eAG-117
.
.
Urine:

___ 07:00PM URINE Color-Yellow Appear-Clear Sp ___
___ 07:00PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 09:55PM URINE Color-Yellow Appear-Clear Sp ___
___ 09:55PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
.
.
Radiology:
MRI HEAD MRA HEAD/NECK W&W/O CONTRASTStudy Date of ___ 
8:04 ___
FINDINGS: This is a partially limited examination due to motion 
artifacts, 
there is no evidence of acute intracranial hemorrhage, mass, 
mass effect, or 
shifting of the normally midline structures. The ventricles and 
sulci are 
prominent, likely age related and involutional in nature. The T2 
and FLAIR 
sequences, demonstrate few scattered foci of high signal 
intensity in the 
subcortical white matter, which are nonspecific and may reflect 
chronic 
microangiopathic changes. No diffusion abnormalities are 
detected to suggest 
acute or subacute ischemic changes. There is no evidence of 
abnormal 
enhancement. The orbits demonstrate post-surgical changes, 
related with lens 
replacement bilaterally, the paranasal sinuses are normally 
pneumatized as 
well as the mastoid air cells. 
  
IMPRESSION: There is no evidence of acute intracranial 
pathology, 
specifically, there is no evidence of areas with restricted 
diffusion to 
suggest acute or subacute ischemic disease. There is no evidence 
of abnormal enhancement. 
  
Few scattered foci of high signal intensity are visualized in 
the subcortical 
white matter on T2 and FLAIR sequences, which are nonspecific 
and may reflect 
chronic microangiopathic changes. 
  
MRA OF THE HEAD: 
  
There is evidence of vascular flow in both internal carotid 
arteries as well 
as in the vertebrobasilar system, the anterior, middle and 
posterior cerebral 
arteries are patent, no aneurysms are identified. There is no 
evidence of 
significant stenosis in the major vessels. 
  
IMPRESSION: Essentially normal MRA of the head for the patient's 
age with no 
evidence of critical stenosis or aneurysms. 
  
MRA OF THE NECK: 
  
The origin of the supra-aortic vessels appears normal, both 
cervical carotid 
bifurcations, demonstrates mild irregularity, extending 
superiorly on the 
right side, likely related with arteriosclerotic disease, and 
previously 
demonstrated by CTA on ___, there is no evidence of 
critical 
stenosis. Both vertebral arteries are patent. 
  
IMPRESSION: There is no evidence of critical stenosis, again 
mild irregular 
contour at the cervical carotid bifurcations, more evident on 
the right side, 
possibly representing arteriosclerotic disease, previously 
demonstrated by CTA 
on ___. There is no evidence of critical stenosis. 

 
Brief Hospital Course:
.
___ with previous BPPV/vestibular neuropathy although without 
formal vestibular work-up presents following gait unsteadiness 
following a rough ferry journey which lasted for a few days and 
latterly acute onset diplopia which was also transient. Exam was 
in keeping with a peripheral cause for his symptoms and MRI 
showed no significant vessel abnormalities or stroke.  Patient 
has been referred to ENT for vestibular testing and advised to 
make PCP ___.
.
.
# Vestibulopathy: Patient was seen by an ophthalmologist who 
found no cause for his double vision which had completely 
resolved by this point and latterly saw his PCP who advised 
stroke rule-out. He presented to the ED and on examination there 
were no abnormal neurological findings save a positive 
___ for symptoms but without nystagmus. On the floor 
head thrust did reveal some nystagmus on thrust to the left. 
MRI head showed no acute stroke and possible small vessel 
disease.
MRA head was essentially normal and MRA neck showed no evidence 
of critical stenosis, mild irregular contour at the cervical 
carotid bifurcations, more evident on the right side, possibly 
representing arteriosclerotic disease similar to that previously 
demonstrated. 
Risk factors were addressed and HbA1c was 5.7% and admission 
glucose was 139. Lipid panel showed cholesterol 203, TGCs 83 and 
LDL 121. Given elevated LDL, PCP should consider starting statin 
therapy. In addition PCP should consider starting aspirin. 
Telemetry showed no arrhythmia and no events were recorded.
Patient was asymptomatic, cleared by ___ and discharged home on 
___. 
He was felt to have a vestibulopathy and has been referred to 
ENT for vestibular testing. They will contact him regarding his 
appointment. He was advised to make PCP ___.
.
.
Code: FULL
 
Medications on Admission:
1. Vitamin B Complex     Capsule Sig: One (1) Capsule PO once a 
day.  
2. Omega 3 Fish Oil 684-1,200 mg Capsule, Delayed Release(E.C.) 
Sig: One (1) Capsule, Delayed Release(E.C.) PO once a day.  
3. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO once a day as 
needed: For anxiety
 
Discharge Medications:
1. Vitamin B Complex     Capsule Sig: One (1) Capsule PO once a 
day.  
2. Omega 3 Fish Oil 684-1,200 mg Capsule, Delayed Release(E.C.) 
Sig: One (1) Capsule, Delayed Release(E.C.) PO once a day.  
3. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO once a day as 
needed: For anxiety.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vestibulopathy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you during your stay at the 
___. You. Presented following 
dizziness and unsteadiness on your feet. In addition to double 
vision. You were assessed by neurology in the ED and had an MRI 
scan with imaging of the vessels of the head and neck which 
showed no evidence of a stroke and no significant abnormalities 
in the vessel imaging. It is unclear regarding the exact cause 
of your double vision but given the scan findings in addition to 
your examination findings and that your symptoms resolved 
suggest that this may be associated with a problem involving the 
inner ear. You had signs on examination to suggest a recurrence 
of your vestibular neuropathy. Given that you have not had 
previous vestibular testing for this, we have referred you to 
the ___ dizzy clinic and they will contact you regarding your 
appointment information. You were seen by Physical Therapy and 
you were deemed safe to go home. You should see your PCP within 
the next week. You should consider taking a baby aspirin and 
discuss this with your PCP.
.
Medication changes:
We made no changes to your medications
 
Followup Instructions:
___